US07820699B2
22.3 A solution of 2.0 g (3S,4S)-3-azido-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester in 25 MeOH was treated under an argon atmosphere with 100 mg PtO2. The reaction mixture was stirred over night under a hydrogen atmosphere. The catalyst was filtered off and washed with methanol. The filtrate was concentrated. The crude product was purified by chromatography (silica gel; gradient: CH2Cl2->CH2Cl2/MeOH 4:1) to give 1.5 g (3S,4S)-3-amino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester as off-white solid. MS 202.9 ([M+H]+)

reactant | (3S,4S)-3-azido-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)O)N=[N+]=[N-] | C9H16N4O3
catalyst | PtO2 | 100 mg | O=[Pt]=O
solvent | MeOH | CO | CH4O
product | (3S,4S)-3-amino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)O)N | C9H18N2O3
